US07214690B2
To a solution of 5-amino-3,4-dihydro-4-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one (6.0 g, 24 mmol) in 100 mL 4.8 M H2SO4 was added a solution of NaNO2 (1.85 g, 26.8 mmol) in 6 mL water at 0° C. The reaction mixture became deep red. This solution was transferred to 120 mL 10M H2SO4 preheated to 145° C. The mixture was heated at 145° C. for 0.5 h, then poured into 400 g of ice water. The crude solid was adsorbed onto silica gel and eluted with 9:1 CH2Cl2:MeOH to afford 4.6 g (82%) of 5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one, an off-white solid. 1H NMR (400 MHz, acetone-d6) δ 11.0 (broad s, 1H), 9.64 (s, 1H), 7.42 (t, 1H, J=8.1), 6.99 (d, 1H, J=8.1), 6.90 (s, 1H), 6.79 (d, 1H, J=8.1).

reactant | 5-amino-3,4-dihydro-4-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one | 24 mmol, 6.0 g | NC1=C2C(CC(NC2=CC=C1)=O)(C(F)(F)F)O | C10H9F3N2O2
reactant | NaNO2 | 26.8 mmol, 1.85 g | N(=O)[O-].[Na+]
solvent | H2SO4 | 4.8 M, 100 mL | OS(=O)(=O)O | H2O4S
solvent | water | 6 mL | O | H2O
solvent | H2SO4 | 10M, 120 mL | OS(=O)(=O)O | H2O4S
product | 5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one | 4.6 g, 82% | OC1=C2C(=CC(NC2=CC=C1)=O)C(F)(F)F | C10H6F3NO2
